US07557244B2
a) 4-Methyl-2-[4′-trifluoromethyl-5-(4-trifluoromethyl-phenoxy)-biphenyl-3-yl]-pentanoic acid methyl ester
The title compound was prepared in 43% yield from 2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester and 4-trifluoromethylphenylboronic acid under the conditions described in Example 15, step (g).

reactant | 2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)O)C1=CC=C(C=C1)C(F)(F)F)=O | C20H21F3O3
reactant | 4-trifluoromethylphenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 4-Methyl-2-[4′-trifluoromethyl-5-(4-trifluoromethyl-phenoxy)-biphenyl-3-yl]-pentanoic acid methyl ester | 43% yield | COC(C(CC(C)C)C=1C=C(C=C(C1)OC1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C27H24F6O3
